US07320973B2
(S)-3-Hydroxy-1-(3-pyrrolidinophenethyl)pyrrolidine (1.04 g, 4.00 mmol) was dissolved in dichloromethane (10 ml). Triethylamine (0.76 ml, 5.49 mmol) and methanesulfonyl chloride (0.39 ml, 5.03 mmol) were added to the obtained solution at 0° C. and they were stirred overnight. The reaction mixture was distributed into 5% aqueous sodium hydrogencarbonate solution and dichloromethane. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with chloroform and methanol (95:5), suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (S)-3-methanesulfonyloxy-1-(3-pyrrolidinophenethyl)pyrrolidine in the form of a light yellow oily substance (1.30 g, 96%).

reactant | (S)-3-Hydroxy-1-(3-pyrrolidinophenethyl)pyrrolidine | 4.00 mmol, 1.04 g | O[C@@H]1CN(CC1)CCC1=CC(=CC=C1)N1CCCC1 | C16H24N2O
reactant | Triethylamine | 5.49 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.03 mmol, 0.39 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-3-methanesulfonyloxy-1-(3-pyrrolidinophenethyl)pyrrolidine | CS(=O)(=O)O[C@@H]1CN(CC1)CCC1=CC(=CC=C1)N1CCCC1 | C17H26N2O3S
